US09351964B2
Step-2: To a stirred solution of 100 mL (400 mmol) of 4N HCl in dioxanes was added the step-1 product, 4-(4-cyanophenoxy)piperidine-1-carboxylic acid tert-butyl ester, (12.60 g, 0.0417 mol) and the mixture stirred 2 h, and 150 mL of 67% Et2O/hexanes added. The resulting slurry was filtered and dried under vacuum (1 torr, 60° C.) to afford the step-2 product, 4-(piperidin-4-yloxy)benzonitrile hydrochloride, as a white solid (9.10 g, 91%): LCMS [MH+]203, Rt 1.23.

reactant | HCl | 400 mmol, 4N, 100 mL | Cl | ClH
reactant | 4-(4-cyanophenoxy)piperidine-1-carboxylic acid tert-butyl ester | 0.0417 mol, 12.60 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C#N | C17H22N2O3
product | 4-(piperidin-4-yloxy)benzonitrile hydrochloride | Cl.N1CCC(CC1)OC1=CC=C(C#N)C=C1 | InChI=1S/C12H14N2O.ClH/c13-9-10-1-3-11(4-2-10)15-12-5-7-14-8-6-12;/h1-4,12,14H,5-8H2;1H
